US06191124B1
Magnesium (0.29 g) in THF (70 mL) was treated with (2-bromoethyl) benzene (2.22 g) and the Grignard reagent was generated during 24 hours. Solid 5,6,7,8,9,10-Hexahydro-cyclooct[d]imidazo[2,1-b]thiazole-3-carboxaldehyde (Formula H-6) (0.70 g) was added, reacted for 2.5 hours and the supernate was decanted into 5% ammonium chloride solution. The precipitated 5,6,7,8,9,10-Hexahydro-α-(2-phenylethyl)cyclooct[d]imidazo-[2,1-b]-thiazole-3-methanol (Formula H-7) was extracted into ethyl acetate, the extracts were washed, dried, and evaporated to a viscous residue (1.51 g). Crystallization of the residue from acetonitrile solution provided pure 5,6,7,8,9,10-Hexahydro-α-(2-phenylethyl)cyclooct[d]imidazo-[2,1-b]thiazole-3-methanol (Formula H-7) (0.79 g), m.p. 123-124°.

reactant | Magnesium | 0.29 g | [Mg] | Mg
reactant | (2-bromoethyl) benzene | 2.22 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 5,6,7,8,9,10-Hexahydro-cyclooct[d]imidazo[2,1-b]thiazole-3-carboxaldehyde | 0.70 g | N=1C=C(N2C1SC1=C2CCCCCC1)C=O | C12H14N2OS
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 5,6,7,8,9,10-Hexahydro-α-(2-phenylethyl)cyclooct[d]imidazo-[2,1-b]thiazole-3-methanol | 0.79 g | C1(=CC=CC=C1)CCC(O)C1=CN=C2SC3=C(N21)CCCCCC3 | C20H24N2OS
